US06353006B1
To a solution of 2,3-dimethylaniline (1.1 mL, 1.00 equiv.) and Et3N (1.5 mL, 1.30 equiv.) in CH2Cl2 (15 mL) at 0° C. was added acetyl chloride (0.73 mL, 1.25 equiv.) over 30 min. The reaction mixture was allowed to stir overnight at room temp., then was treated with a 2N HCl solution (10 mL) and CH2Cl2 (25 mL). The resulting mixture was extracted with EtOAc (3×25 mL). The combined organics were washed with a 2N HCl solution (2×25 mL), water (2×25 mL), a saturated NaHCO3 solution (2×25 mL) and a saturated NaCl solution (2×25 mL), dried (Na2SO4), and concentrated under reduced pressure to give 2,3-dimethylacetanilide as a white solid (1.25 g, 93%): 1H NMR (CDCl3) δ2.05 (s, 3H), 2.15 (s, 3H), 2.25 (s, 3H), 6.95 (d, 7.5 Hz, 1H) 7.02 (app t, J=7.5 Hz, 1H), 7.35 (d, J=6.9 Hz, 1H).

reactant | 2,3-dimethylaniline | 1.1 mL, 1.00 equiv. | CC1=C(N)C=CC=C1C | C8H11N
reactant | Et3N | 1.5 mL, 1.30 equiv. | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.73 mL, 1.25 equiv. | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dimethylacetanilide | 1.25 g, 93% | CC1=C(C(=CC=C1)NC(=O)C)C | C10H13NO
